US06232430B1
N-(4-[2,3-dihydroxypropyl]oxyphenyl)maleimide (=dihydroxypropylmaleimide [DPMI]) (step 7)
To a suspension of N-(4-[2,3-epoxypropyl]oxyphenyl)maleimide (200 g, 0.816 mole) in 1360 ml of acetone was added perchloric acid (20 ml) in 660 ml of water. The reaction mixture was refluxed for 2 h, during which the solution became clear yellow (complete conversion on TLC, dichloromethane: methanol 90:10). After cooling, the acetone was removed under reduced pressure. Water was added to the resulting slurry which was stirred for 0.5 h. The solids were filtered off, washed with water and dissolved in THF (tetrahydrofuran). This solution was dried twice over anhydrous sodium sulfate, followed by concentration to dryness.

reactant | N-(4-[2,3-epoxypropyl]oxyphenyl)maleimide | 0.816 mole, 200 g | O1C(COC2=CC=C(C=C2)N2C(C=CC2=O)=O)C1 | C13H11NO4
reactant | perchloric acid | 20 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | dichloromethane methanol | ClCCl.CO
solvent | acetone | 1360 ml | CC(=O)C | C3H6O
solvent | water | 660 ml | O | H2O
product | N-(4-[2,3-dihydroxypropyl]oxyphenyl)maleimide | OC(COC1=CC=C(C=C1)N1C(C=CC1=O)=O)CO | C13H13NO5
